US07238720B2
a) 1-(4-Toluenesulfonyl)-1H-pyrazole
A suspension of pyrazole (1 g) and 4-toluenesulfonyl chloride (2.8 g) in pyridine (10 ml) was stirred at 130° C. for 1 hour. After the reaction mixture was cooled, water was added to the reaction mixture, resulting in a white suspension. The resultant suspension was filtered, and the obtained white solids were washed three times with water. Drying at room temperature under reduced pressure gave white solids (500 mg).

reactant | pyrazole | 1 g | N1N=CC=C1 | C3H4N2
reactant | 4-toluenesulfonyl chloride | 2.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Toluenesulfonyl)-1H-pyrazole | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)N1N=CC=C1)C | C10H10N2O2S
